US07781438B2
Preparation of 7-Methoxy-3H-isobenzofuran-1-one
Solid sodium borohydride (14.02 g, 370.5 mmol, 1.75 equiv) was added in portions to a solution of N,N-diethyl-2-formyl-6-methoxy-benzamide (49.81 g, 211.7 mmol) in methanol (800 ml) at 0° C. After complete addition, stirring was continued at room temperature for 30 minutes, until TLC analysis indicated complete consumption of starting material. The reaction mixture was cooled to 0° C., and 6N aqueous HCl (134 ml) was carefully added. The solution was heated to 90° C. for 90 minutes. After cooling, volatiles were removed in vacuo. The residue was taken up in water (500 ml) and extracted four times with EtOAc (1.6 liter in total). The combined organic layers were washed with brine (2×100 ml), dried over Na2SO4, filtered and concentrated in vacuo to afford the title compound (33.92 g, 98%) in adequate purity for direct use in the next transformation. 1H NMR (400 MHz, CDCl3): δ=7.60 (t, J=8.4 Hz, 1H), 7.00 (d, J=7.6 Hz, 1H), 6.91 (d, J=8.3 Hz, 1H), 5.22 (s, 2H), 3.98 (s, 3H). MS (ES+): 165 (M+H)+.

reactant | sodium borohydride | 370.5 mmol, 14.02 g, 1.75 equiv | [BH4-].[Na+]
reactant | N,N-diethyl-2-formyl-6-methoxy-benzamide | 211.7 mmol, 49.81 g | C(C)N(C(C1=C(C=CC=C1OC)C=O)=O)CC | C13H17NO3
solvent | methanol | 800 ml | CO | CH4O
product | 7-Methoxy-3H-isobenzofuran-1-one | 33.92 g, 98% | COC=1C=CC=C2COC(C12)=O | C9H8O3
